US03962302
A mixture of 10 g of diethyl toluene- 2,4-dicarbamate and 50 g of di-2-ethylhexyl phthalate was heated in a cylindrical reactor at 250° C. for 1 hour. Nitrogen at 32 liters per hour was passed through a fritted disc at the bottom of the reactor. A yield of toluene-2,4-diisocyanate of 57.6 mol percent together with 28.6 mol percent of the monocarbamate and 2.5 mol percent of unconverted dicarbamate was obtained. This run demonstrated that ester type solvents also can be employed in the process of this invention with excellent results.

reactant | diethyl toluene- 2,4-dicarbamate | 10 g | C=1(C(=CC(=CC1)NC(=O)OCC)NC(=O)OCC)C | C13H18N2O4
reactant | di-2-ethylhexyl phthalate | 50 g | CCCCC(CC)COC(=O)C1=CC=CC=C1C(=O)OCC(CC)CCCC | C24H38O4
product | toluene-2,4-diisocyanate | CC1=C(C=C(C=C1)N=C=O)N=C=O | C9H6N2O2
